US08022062B2
4-Ethylthio-benzonitrile:
Combine 4-mercapto-benzonitrile (0.4 g, 2.96 mmol), bromoethane (1.4 mL, 8.88 mmol) and potassium carbonate (3.3 g, 23.7 mmol) in anhydrous DMF (7 mL) and heat at 60° C. for 17 h. Cool the reaction mixture to ambient temperature and partition between brine (20 mL) and EtOAc (20 mL). Separate the organic layer, dry over anhydrous Na2SO4 and concentrate. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1 and 4:1) to obtain the desired intermediate as a colorless oil (0.4 g, 83%).

reactant | 4-mercapto-benzonitrile | 2.96 mmol, 0.4 g | SC1=CC=C(C#N)C=C1 | C7H5NS
reactant | bromoethane | 8.88 mmol, 1.4 mL | BrCC | C2H5Br
reactant | potassium carbonate | 23.7 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-Ethylthio-benzonitrile | 0.4 g, 83% | C(C)SC1=CC=C(C#N)C=C1 | C9H9NS
